US07884207B2
To a 0° C. solution of N-[(1-aminocyclohexyl)methyl]-3-nitroquinolin-4-amine (38.0 g, 127 mmol) in tetrahydrofuran (250 mL) was added dropwise 2 M aqueous NaOH (64 mL, 128 mmol). A solution of di-tert-butyl dicarbonate (27.6 g, 127 mmol) in tetrahydrofuran (150 mL) was added to the reaction mixture over 60 min. The reaction was allowed to warm to rt. After 3 d, additional di-tert-butyl dicarbonate (10 g) was added to the reaction. The solvent was removed under reduced pressure and the resulting orange oil was dissolved in dichloromethane (1 L) and washed with water (3×500 mL). The combined aqueous layers were back-extracted with dichloromethane (500 mL). The organic layers were combined, dried over MgSO4, filtered, and concentrated under reduced pressure to yield an orange oil. Purification by flash chromatography (silica gel, eluted with 30% ethyl acetate/hexanes) provided tert-butyl 1-{[(3-nitroquinolin-4-yl)amino]methyl}cyclohexylcarbamate as a yellow solid (29.8 g, 59%).

reactant | N-[(1-aminocyclohexyl)methyl]-3-nitroquinolin-4-amine | 127 mmol, 38.0 g | NC1(CCCCC1)CNC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C16H20N4O2
reactant | NaOH | 128 mmol, 2 M, 64 mL | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 127 mmol, 27.6 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | di-tert-butyl dicarbonate | 10 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | tert-butyl 1-{[(3-nitroquinolin-4-yl)amino]methyl}cyclohexylcarbamate | 29.8 g, 59% | [N+](=O)([O-])C=1C=NC2=CC=CC=C2C1NCC1(CCCCC1)NC(OC(C)(C)C)=O | C21H28N4O4
